US06919365B2
1-Isobutyl-3-naphthylcarbonyl-5,5-diphenylimidazolidine -2,4-dione (Compound 23)
3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione (51 mg) was dissolved in DMF (0.4 mL), and sodium hydride (60%, in oil) (5 mg) was added. Then, methylisobutyl iodide (23 mg) was added, and the mixture was stirred at room temperature overnight. Ethyl acetate (9.5 mL) was added to the reaction solution, separated out white precipitates were filtered, and the filtrate was concentrated and purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain 20 mg of white crystals.

reactant | 3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione | 51 mg | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H18N2O3
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | methylisobutyl iodide | 23 mg | CC(C(C)C)I | C5H11I
reactant | Ethyl acetate | 9.5 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 1-Isobutyl-3-naphthylcarbonyl-5,5-diphenylimidazolidine -2,4-dione | 20 mg | C(C(C)C)N1C(N(C(C1(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O | C30H26N2O3
